US07384934B2
2-(4-Chloro-2-nitro-phenylamino)-5-isopropyl-benzonitrile
Combine 1,4-dichloro-2-nitro-benzene (0.513 g, 2.67 mmol), 2-amino-5-isopropyl-benzonitrile (0.514 g, 3.21 mmol), potassium carbonate (0.754 g, 5.45 mmol), and fine granular copper (0.031 g, 0.48 mmol) in dimethylformamide (5 ml). Heat the reaction mixture to 160° C. for 16 hours, and cool to ambient temperature. Dilute the reaction mixture with 50 ml of ethyl acetate and wash 3 times with 50 ml water and once with 50 ml of brine. Collect organic layer, dry over sodium sulfate and evaporate solvent. Purify the residue via flash chromatography eluting with a step gradient starting with 90% hexanes: 10% ethyl acetate and going to 85% hexanes: 15% ethyl acetate to obtain 0.316 g (1.00 mmol, 37% yield) of the title compound as an orange amorphous solid: Mass Spectrum (m/e): 316 (M+1).

reactant | 1,4-dichloro-2-nitro-benzene | 2.67 mmol, 0.513 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 2-amino-5-isopropyl-benzonitrile | 3.21 mmol, 0.514 g | NC1=C(C#N)C=C(C=C1)C(C)C | C10H12N2
reactant | potassium carbonate | 5.45 mmol, 0.754 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper | 0.48 mmol, 0.031 g | [Cu] | Cu
product | 2-(4-Chloro-2-nitro-phenylamino)-5-isopropyl-benzonitrile | 1.00 mmol, 0.316 g, 37% yield | ClC1=CC(=C(C=C1)NC1=C(C#N)C=C(C=C1)C(C)C)[N+](=O)[O-] | C16H14ClN3O2
